data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_558292_1,[C:1](=[C:4]([C:3]([N:6]([H:10])[H:11])=[O:7])[O:8][C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([H:12])[H:13]>>[C:1]([C:4]([C:3]([N:6]([H:10])[H:11])=[O:7])=[O:8])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([H:12])[H:13],43.77816499997408
MR_693362_0,[C:1]12([H:9])[C@:5]([H:14])([C@:4](/[C:2]([N:3]([H:10])[H:11])=[N:8]\[H:12])([H:13])[O:7]1)[O:6]2>>[C:1]1(/[C:2]([N:3]([H:10])[H:11])=[N:8]\[H:12])([H:9])[O:6][C:5]([H:14])=[C:4]([H:13])[O:7]1,42.31922749998361
MR_521933_0,[C:1]1([O:6][O:7][H:8])([H:9])[C:2]([N:5]([H:11])[H:12])([H:10])[C:4]([H:15])([H:16])[C:3]1([H:13])[H:14]>>[C:1]1([C:2]([N:5]([H:11])[H:12])([O:6][O:7][H:8])[H:10])([H:9])[C:3]([H:13])([H:14])[C:4]1([H:15])[H:16],62.7738450000254
MR_74322_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])(/[C:7](=[C:6]([C:5](\[C:2]([H:13])([H:14])[H:15])=[N:8]\[H:10])/[H:11])[H:12])[H:9]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])=[C:7](/[C:6](=[C:5](/[C:2]([H:13])([H:14])[H:15])[N:8]([H:9])[H:10])[H:11])[H:12],28.453987499998448
MR_155394_0,[C@@:1]1([C:6]([C:4]([H:14])([H:15])[H:16])=[O:8])([N:7]([H:10])[H:11])[C@:2]([C:5]([H:17])([H:18])[H:19])([H:9])[C:3]1([H:12])[H:13]>>[C:1](=[C:2](/[C:5]([H:17])([H:18])[H:19])[H:9])(\[C:3]([C:6]([C:4]([H:14])([H:15])[H:16])=[O:8])([H:12])[H:13])[N:7]([H:10])[H:11],60.96601750002407
MR_188807_2,[N:1](/[C:2](=[N:4]/[N:5]=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[N:5]=[N:4]1)([H:6])[H:7],46.88868250000368
MR_509711_0,[C:1]([O:6][N:4]([C:3]([H:15])([H:16])[H:17])[N:5]([H:8])[H:9])([O:7][C:2]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:1]([N:4]([C:3]([H:15])([H:16])[H:17])[N:5]([H:8])[H:9])([O:6][O:7][C:2]([H:12])([H:13])[H:14])([H:10])[H:11],70.61445749999052
MR_219101_1,[C:1]1([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[O:7][C:2]([C:4]([H:16])([H:17])[H:18])([H:9])[C:3]([H:14])([H:15])[O:8]1>>[C:1](\[N:5]([H:10])[H:11])(=[N:6]/[H:12])[O:7][C:2]([C:3]([O:8][H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[H:9],37.38582250002637
MR_679205_1,[C:1]([N:2]([O:4][N:3]([H:8])[H:9])[H:7])([O:5][H:6])([H:10])[H:11]>>[C@:1]([N:2]([H:7])[H:11])([O:4][N:3]([H:8])[H:9])([O:5][H:6])[H:10],69.38016500000359
MR_339403_1,[C:1]([C:2](=[O:6])[H:10])([C:3](=[O:7])[H:11])([O:4][H:9])[O:5][H:8]>>[C:1]([C:2]([C:3](=[O:7])[H:11])([O:6][H:9])[H:10])(=[O:4])[O:5][H:8],33.55054250000748
MR_294697_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:5]([C:4]([H:15])([H:16])[H:17])=[O:8])[N:7]=[C:6]([H:18])[H:19]>>[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[N:7][C:6]([C:5]([C:4]([H:15])([H:16])[H:17])=[O:8])([H:18])[H:19],65.18344500000552
MR_225622_0,[C:1]([C:3](=[O:6])[H:7])(/[C:4](=[N:5]/[C:2]([H:11])([H:12])[H:13])[H:8])([H:9])[H:10]>>[C:1](=[C:4]([N:5]([C:2]([H:11])([H:12])[H:13])[C:3](=[O:6])[H:7])[H:8])([H:9])[H:10],49.125719999991446
MR_62710_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:11])[C:6]([O:8][H:10])([O:9][H:12])[C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[O:7]1>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:6]([O:8][H:10])=[O:9])([O:7][C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[H:12])[H:11],67.39287249999165
MR_302416_2,[C:1](=[C:6]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])[C:7]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])([H:18])[H:19])([H:10])[H:11]>>[C:1]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])([C:6]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])=[C:7]([H:18])[H:19])([H:10])[H:11],65.37671499998126
MR_234156_1,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])(/[C:4](=[N:6]/[H:10])[H:11])[O:5][H:7]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])[C:4]([O:5][H:7])([H:11])[N:6]1[H:10],45.044460000022895
MR_617985_0,[C:1]1([H:6])([H:7])[O:3][O:4][C:2]([H:8])=[N:5]1>>[C:1](=[N:5][C:2]1([H:8])[O:3][O:4]1)([H:6])[H:7],70.51280249999749
MR_409119_0,[C:1](/[C:6](=[C:3](\[N:2]([N:4]([H:10])[H:11])[C:5](=[O:8])[H:12])[O:7][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@:6](/[C:3](=[N:2]/[N:4]([H:10])[H:11])[O:7][H:9])([C:5](=[O:8])[H:12])[H:13])([H:14])([H:15])[H:16],38.470769999998
MR_396383_0,[C:1]([C:2](=[O:7])[O:8][H:13])([C:4]([C:3]([H:15])([H:16])[H:17])([O:9][H:12])[H:14])([O:5][H:11])[O:6][H:10]>>[C:1]([C:2]([O:7][H:12])([O:8][H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:9])([O:5][H:11])[O:6][H:10],65.37106749995985
MR_256782_2,[C:1]([C@:2]1([H:10])[C:3]([H:11])([H:12])[O:8]1)([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:7]([C:6]([H:19])([H:20])[H:21])=[O:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[O:8]1)([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:7]([C:6]([H:19])([H:20])[H:21])=[O:9],64.58543750001724
MR_478121_0,[C:1](/[N:7]=[C:4]([C:2](=[C:3](\[O:6][H:9])[H:10])\[O:5][H:8])/[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C@@:3]([O:6][H:9])([H:10])[C:2]([O:5][H:8])=[C:4]1[H:11])([H:12])([H:13])[H:14],43.72419999996765
